US04034107
A mixture of dry potassium thiocyanate (25.65 g.) and acetonitrile (320 ml.) was cooled to 10° C. and treated during 5 minutes with methyl chloroformate (25.0 g.). The mixture was stirred at room temperature for 2 hours. 1-Amino-4-ethylthio-2-nitrobenzene (22.45 g.) was then added to the mixture at 10°-15° C. The suspension was stirred for 3 hours at room temperature and allowed to stand overnight. It was then poured into water (1.6 liters) and the solid which precipitated was filtered off, washed with water and recrystallised from a mixture of methanol and ethanol, to give 4-ethylthio-1-(3-methoxycarbonyl-2-thioureido)-2-nitrobenzene (14.0 g.), m.p. 152° C.

reactant | potassium thiocyanate | 25.65 g | [S-]C#N.[K+]
reactant | acetonitrile | 320 ml | C(C)#N | C2H3N
reactant | methyl chloroformate | 25.0 g | ClC(=O)OC | C2H3ClO2
reactant | 1-Amino-4-ethylthio-2-nitrobenzene | 22.45 g | NC1=C(C=C(C=C1)SCC)[N+](=O)[O-] | C8H10N2O2S
solvent | water | 1.6 liters | O | H2O
product | 4-ethylthio-1-(3-methoxycarbonyl-2-thioureido)-2-nitrobenzene | 14.0 g | C(C)SC1=CC(=C(C=C1)NC(=S)NC(=O)OC)[N+](=O)[O-] | C11H13N3O4S2
